US05376681
2-Bromomethyl-5-formylamino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran
4-Formylamino-2,3,5-trimethyl-6-(2-methyl-2-propenyl)phenol (50 g, 0.21 mol) and sodium acetate (30.5 g, 0.37 mol) were added to acetic acid (500 ml). Bromine (16.5 ml, 0.21 mol) was added dropwise to the mixture with stirring. After the reaction mixture was stirred for 30 minutes, the mixture was poured into ice water and the product was extracted with ethyl acetate. The extract was washed with aqueous saturated sodium bicarbonate solution, dried and then concentrated. The residue was dissolved in ethyl acetate again and insoluble materials were filtered off. The filtrate was concentrated and isopropyl ether was added to the residue. The crystals precipitated were filtered off to obtain the desired compound (44.0 g, yield: 65.7%), m.p. 157°-158° C.

reactant | 4-Formylamino-2,3,5-trimethyl-6-(2-methyl-2-propenyl)phenol | 0.21 mol, 50 g | C(=O)NC1=C(C(=C(C(=C1C)CC(=C)C)O)C)C | C14H19NO2
reactant | sodium acetate | 0.37 mol, 30.5 g | C(C)(=O)[O-].[Na+]
reactant | Bromine | 0.21 mol, 16.5 ml | BrBr | Br2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-Bromomethyl-5-formylamino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | 44.0 g, yield: 65.7% | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)NC=O)C)C | C14H18BrNO2
